US20010044445A1
methyl 3-oxo-3-(1,3-thiazol-2-yl)propanoate
To a cold solution (−78° C.) of diisopropylamine (7.5 mL, 51.82 mmol) in diethyl ether (200 mL) was added n-BuLi (2.5 M in hexane, 18.0 mL, 45 mmol). The resulting solution was stirred at −78° C. for 30 minutes at which point neat 2-acetylthiazole (5.07 g, 39.87 mmol) was added. The resulting solution was stirred for one hour at −78° C. and neat methyl cyanoformate (4.7 mL, 59.81 mmol) was added and the resulting mixture was stirred at −78° C. for 3 hours. The reaction mixture was then warmed to room temperature over a period of one hour. The reaction was quenched by the addition of water (150 mL). The layers were separated. The aqueous layer was acidified to pH 1, then extracted with ether (150 mL). The organic layer was dried over sodium sulfate, filtered and concentrated to give the title compound as an oil (7.37 g, 99% yield).

reactant | diisopropylamine | 51.82 mmol, 7.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 45 mmol, 2.5 M, 18.0 mL | [Li]CCCC
reactant | 2-acetylthiazole | 39.87 mmol, 5.07 g | C(C)(=O)C=1SC=CN1 | C5H5NOS
reactant | methyl cyanoformate | 59.81 mmol, 4.7 mL | C(#N)C(=O)OC | C3H3NO2
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | methyl 3-oxo-3-(1,3-thiazol-2-yl)propanoate | 7.37 g, 99% yield | O=C(CC(=O)OC)C=1SC=CN1 | C7H7NO3S
